US08048862B2
Optionally substituted 2-(thiazol-2-yl)-4-chloro-7-alkoxy-8-alkyl-quinoline 2-phenyl-4-chloro-7-alkoxy-quinolines, such as 2-(4-isopropylthiazol-2-yl)-4-chloro-7-methoxy-8-methyl-quinoline, can be synthesized as shown in Scheme XIII. 3-Alkoxy-2-alkyl-anilines, such as 3-methoxy-2-methyl-aniline, can react with acetonitrile (CH3CN) in the presence of Lewis acids, for example boron trichloride and aluminum trichloride, to provide 2-alkyl-3-alkoxy-6-acetyl-anilines such as 2-methyl-3-methoxy-6-acetyl-aniline. The 2-alkyl-3-alkoxy-6-acetyl-anilines, such as 2-methyl-3-methoxy-6-acetyl-aniline, can be coupled to an an optionally substituted thiazole-2-carboxylic acid chloride, such as 4-isopropylthiazole-2-carbonyl chloride to provide an optionally substituted 1-acetyl-2-[(thiazol-2-yl)-carbonylamino]-3-alkyl-4-alkoxy-benzene, such as 1-acetyl-2-[(4-isopropyl-thiazol-2-yl)-carbonylamino]-3-methyl-4-methoxy-benzene. The optionally substituted 1-acetyl-2-[(thiazol-2-yl)-carbonylamino]-3-alkyl-4-alkoxy-benzene, such as 1-acetyl-2-[(4-isopropyl-thiazol-2-yl)-carbonylamino]-3-methyl-4-methoxy-benzene, can be cyclized under basic conditions, for example sodium tert-butoxide in tert-butanol, to provide an optionally substituted 2-(thiazol-2-yl)-4-hydroxy-7-alkoxy-8-alkyl-quinoline, such as 2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline. Finally, an optionally substituted 2-(thiazol-2-yl)-4-hydroxy-7-alkoxy-8-alkyl-quinoline, such as 2-(4-isopropylthiazol-2-yl)-4-hydroxy-7-methoxy-8-methyl-quinoline can be reacted with a chlorinating agent, for example phosphorous oxychloride, oxalyl chloride, thionyl chloride and the like, to provide an optionally substituted 2-(thiazol-2-yl)-4-chloro-7-alkoxy-8-alkyl-quinoline 2-phenyl-4-chloro-7-alkoxy-quinolines, such as 2-(4-isopropylthiazol-2-yl)-4-chloro-7-methoxy-8-methyl-quinoline.

reactant | 2-(4-isopropylthiazol-2-yl)-4-chloro-7-methoxy-8-methyl-quinoline | C(C)(C)C=1N=C(SC1)C1=NC2=C(C(=CC=C2C(=C1)Cl)OC)C | C17H17ClN2OS
reactant | 3-methoxy-2-methyl-aniline | COC=1C(=C(N)C=CC1)C | C8H11NO
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-methyl-3-methoxy-6-acetyl-aniline | CC1=C(N)C(=CC=C1OC)C(C)=O | C10H13NO2
